* C:\Users\Gustavo\Desktop\Draft2.asc
V1 1 0 AC 5V
;V1 1 0 pulse(0V, 5V, 1ns, 1ns, 1ms, 2ms, 3ms, 4ms, 5ms )
L1 3 0 4.29mH
R1 1 2  27
R2 2 3 100
R3 2 0 2.2k
.ac dec 10 10Hz 10000000Hz 
;tran 100us 2.5ms
.end
.backanno
.end
